US04279908
6-(3,5-Dichloro-4-methylphenyl)-3(2H)pyridazinethione
12.75 g of 6-(3,5-dichloro-4-methylphenyl)-3-pyridazone and 22 g of phosphorus pentasulphide in 80 ml of pyridine were heated under reflux on an oil bath for 7 hours. The reaction mixture was then cooled to room temperature and its volume was reduced by one-half by distilling off the pyridine under reduced pressure. 300 ml of ethyl acetate were added to the residue and the mixture was poured into ice-water. After stirring the mixture for a short time, the resulting yellow solid was collected by filtration, washed with water and dried to give 7.5 g (56%) of the desired compound. After recrystallizing the compound from a 10:1 by volume mixture of ethanol and dioxan, the compound melted at 255°-258° C.

reactant | 6-(3,5-dichloro-4-methylphenyl)-3-pyridazone | 12.75 g | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | C11H8Cl2N2O
reactant | phosphorus pentasulphide | 22 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 6-(3,5-Dichloro-4-methylphenyl)-3(2H)pyridazinethione | 7.5 g, 56% | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=S | C11H8Cl2N2S
